2102-01-10 09:29:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   RSBI 51 this AM
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-1-10**] 02:05 AM
 URINE CULTURE - At [**2102-1-10**] 02:49 AM
 NASAL SWAB - At [**2102-1-10**] 02:49 AM
 MULTI LUMEN - START [**2102-1-10**] 02:50 AM
 PRESEP CATHETER - START [**2102-1-10**] 02:51 AM
 MULTI LUMEN - STOP [**2102-1-10**] 03:02 AM
 ARTERIAL LINE - START [**2102-1-10**] 03:30 AM
 EKG - At [**2102-1-10**] 04:29 AM
 FEVER - 101.3
F - [**2102-1-10**] 02:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-1-10**] 05:45 AM
   Cefipime - [**2102-1-10**] 06:26 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-1-10**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.7
   HR: 64 (64 - 90) bpm
   BP: 88/74(81) {88/54(72) - 125/86(93)} mmHg
   RR: 14 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (10 - 13)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  1,505 mL
   PO:
   TF:
   IVF:
                                                                  1,415 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    405 mL
   Urine:
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (425 - 488) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/37/139/20/-5
   Ve: 6.6 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   161 K/uL
   155 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   43 mg/dL
   111 mEq/L
   142 mEq/L
   35.0 %
   24.3 K/uL
        [image002.jpg]
                             [**2102-1-10**]  02:53 AM
                             [**2102-1-10**]  04:08 AM
                             [**2102-1-10**]  06:56 AM
   WBC
   24.3
   Hct
   35.0
   Plt
   161
   Cr
   1.4
   TropT
   0.07
   TCO2
   20
   20
   Glucose
   155
   Other labs: PT / PTT / INR:14.6//1.3, CK / CKMB /
   Troponin-T:264/4/0.07, Lactic Acid:2.8 mmol/L, Ca++:7.6 mg/dL, Mg++:1.5
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 CANCER (MALIGNANT NEOPLASM), OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   81M Alzheimer's, dCHF, HTN, NPH, penile cancer with chronic foley
   admitted with likely septic shock of urinary source; intubated in ED
   with respiratory distress.
   1. Septic shock: Likely urinary source - awaiting cultures.  Lactate
   and Cr improving. Continues on levophed.  Will narrow abx coverage to
   vanc/Zosyn.  IVF to maintain CVP of 10 and urine output.  WBC elevated
   - cont to follow.
   2. Respiratory Failure: Ruling out flu - on Tamiflu until result back.
   CXR relatively unremarkable - some retrocardiac infiltrate.  Doing well
   on SBT - anticipate extubation today.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-1-10**] 02:50 AM
   Presep Catheter - [**2102-1-10**] 02:51 AM
   Arterial Line - [**2102-1-10**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2102-01-11 10:16:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Influenza neg
   Neo now off
   Extubated this AM
   24 Hour Events:
 EKG - At [**2102-1-10**] 11:00 AM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2102-1-10**] 06:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-1-11**] 08:00 AM
   Vancomycin - [**2102-1-11**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-1-10**] 02:08 PM
   Pantoprazole (Protonix) - [**2102-1-11**] 08:00 AM
   Other medications:
   per ICU residentnnote
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-1-11**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 80 (65 - 84) bpm
   BP: 108/81(94) {51/40(47) - 134/81(207)} mmHg
   RR: 29 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 7 (5 - 11)mmHg
   Total In:
                                                                  2,148 mL
                                                                    655 mL
   PO:
   TF:
   IVF:
                                                                  2,058 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    550 mL
   Urine:
                                                                  1,200 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    948 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (378 - 413) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.42/34/131/21/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, slightly confused
   Labs / Radiology
   11.2 g/dL
   144 K/uL
   133 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   28 mg/dL
   114 mEq/L
   143 mEq/L
   33.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2102-1-10**]  02:53 AM
                             [**2102-1-10**]  04:08 AM
                             [**2102-1-10**]  06:56 AM
                             [**2102-1-10**]  09:59 AM
                             [**2102-1-10**]  10:30 AM
                             [**2102-1-11**]  02:51 AM
                             [**2102-1-11**]  02:57 AM
   WBC
   24.3
   16.3
   Hct
   35.0
   33.9
   Plt
   161
   144
   Cr
   1.4
   1.1
   TropT
   0.07
   0.03
   TCO2
   20
   20
   21
   23
   Glucose
   155
   139
   133
   Other labs: PT / PTT / INR:12.9/34.7/1.1, CK / CKMB /
   Troponin-T:159/4/0.03, Lactic Acid:1.8 mmol/L, Ca++:7.6 mg/dL, Mg++:2.2
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 CANCER (MALIGNANT NEOPLASM), OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   81M Alzheimer's, dCHF, HTN, NPH, penile cancer with chronic foley
   admitted with likely septic shock of urinary source; intubated in ED
   with respiratory distress.
   1. Septic shock: Enterococcus in urine (low colony count), GNRs in
   blood.  Cr improving. Pressors off.  Will narrow abx coverage to
   vanc/Zosyn.
   2. Respiratory Failure: Extubated and doing well.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-1-10**] 02:50 AM
   Presep Catheter - [**2102-1-10**] 02:51 AM
   Arterial Line - [**2102-1-10**] 03:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2102-01-12 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Chills
   24 Hour Events:
   - Extubated
   - Proteus and enterococcus in blood cultures in ED.
   - Did not send email to outpatient urologist.
   - No other major events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2102-1-10**] 06:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-1-11**] 08:00 AM
   Vancomycin - [**2102-1-11**] 08:00 PM
   Piperacillin - [**2102-1-12**] 12:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-1-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-1-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-12**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.4
   HR: 71 (66 - 88) bpm
   BP: 137/55(78) {90/41(54) - 158/134(140)} mmHg
   RR: 29 (22 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 0 (0 - 8)mmHg
   Total In:
                                                                    978 mL
                                                                    138 mL
   PO:
   TF:
   IVF:
                                                                    978 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    590 mL
   Urine:
                                                                  1,470 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -492 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ////
   Physical Examination
   General: Awake, alert and oriented
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally on anterior exam, no wheezes,
   rales, ronchi
   CV: RRR no murmurs
   Abdomen: Obese, non tender, soft
   GU: Penis wrapped. Foley present; clear yellow urine.
   Ext: Warm, well perfused, 2+ pulses
   Labs / Radiology
   158 K/uL
   11.4 g/dL
   133 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   28 mg/dL
   114 mEq/L
   143 mEq/L
   34.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2102-1-10**]  02:53 AM
                             [**2102-1-10**]  04:08 AM
                             [**2102-1-10**]  06:56 AM
                             [**2102-1-10**]  09:59 AM
                             [**2102-1-10**]  10:30 AM
                             [**2102-1-11**]  02:51 AM
                             [**2102-1-11**]  02:57 AM
                             [**2102-1-12**]  06:09 AM
   WBC
   24.3
   16.3
   11.2
   Hct
   35.0
   33.9
   34.5
   Plt
   161
   144
   158
   Cr
   1.4
   1.1
   TropT
   0.07
   0.03
   TCO2
   20
   20
   21
   23
   Glucose
   155
   139
   133
   Other labs: PT / PTT / INR:12.9/34.7/1.1, CK / CKMB /
   Troponin-T:159/4/0.03, Lactic Acid:1.8 mmol/L, Ca++:7.6 mg/dL, Mg++:2.2
   mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: Pending.
   Microbiology: [**2102-1-9**] 10:10 pm BLOOD CULTURE
      Blood Culture, Routine (Preliminary):
         PROTEUS MIRABILIS.
         GRAM NEGATIVE ROD #2.
         ENTEROCOCCUS SP..
      Anaerobic Bottle Gram Stain (Final [**2102-1-10**]):
         GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] #[**Numeric Identifier 10509**] [**2102-1-10**] 12:00 NOON.
      Aerobic Bottle Gram Stain (Final [**2102-1-10**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] AT 5:30PM ON [**2102-1-10**].
   [**2102-1-10**] 2:53 am URINE      Source: Catheter.
                               **FINAL REPORT [**2102-1-11**]**
      URINE CULTURE (Final [**2102-1-11**]):
         PROBABLE ENTEROCOCCUS.    ~3000/ML.
   Assessment and Plan
   81 yo with CAD, Alzheimer
s dementia, multiple UTIs in the past, p/w
   UTI and sepsis, hypoxia, and renal failure; intubated in ED with
   respiratory distress.
   .
   #. Sepsis: Presumed source is urine, given grossly positive UA. CVP
   currently 9. Lactate of 3.7 likely [**1-24**] poor end organ perfusion.
   Chronic foley catheter has been replaced. Lactate downtrending.
   - IV fluid boluses to keep MAP>60 until CVP>12 prn
   - Weaned off levophed
   - Vancomycin, Zosyn for GU coverage as well as potential pneumonia;
   re-dose Vancomycin
   - Follow up cultures: blood, urine
   - Follow up CXR
   .
   #. Hypoxia:  Improved. Differential includes healthcare associated
   pneumonia, aspiration pneumonia, H1N1, but more likely ARDS in the
   setting of urosepsis. Patient does not appear volume overloaded.
   Intubated given tachypnea and s/p extubation today.
   - Follow up CXR; obtain CXR in AM
   - Follow up sputum culture
   .
   # Acute Renal Failure: Cr 1.1 today and improving. Baseline per OMR
   appears to be 0.9, though he has CRI listed as a problem. Likely
   secondary to poor forward flow in the setting of sepsis.
   - Continue to trend Cr
   - IVF prn
   - Continue to renally dose medications and avoid nephrotoxins
   ..
   #. Alzheimers dementia: Chair bound. Will speak with family regarding
   baseline functioning and goals of care.
   .
   #. HTN: Hold Atenolol and Finasteride
   .
   #. CAD: Continue ASA 81mg. Hold BB. Continue statin.
   .
   # FEN: IVFs, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: PIVx2, R IJ, A-line
   # Communication: [**Name (NI) 203**] [**Name (NI) 10487**] (wife) [**Telephone/Fax (1) 10488**]
   # Code:  Full - patient demented, but paperwork from rehab confirms
   full code.
   # Disposition: ICU pending clinical improvement; will likely stay in
   ICU today and may perhaps go to the floor tomorrow.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2102-1-10**] 02:51 AM
   20 Gauge - [**2102-1-11**] 09:36 PM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor

2102-01-12 11:02:00 Physician Attending Progress Note
Chief Complaint: Septic shock, UTI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BP has remained stable over last day
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-1-11**] 09:00 AM
 ARTERIAL LINE - STOP [**2102-1-11**] 07:01 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2102-1-10**] 06:26 AM
   Vancomycin - [**2102-1-11**] 08:00 PM
   Piperacillin - [**2102-1-12**] 12:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-1-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-1-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-1-12**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-1-12**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 71 (66 - 88) bpm
   BP: 130/62(77) {116/41(61) - 158/134(140)} mmHg
   RR: 22 (22 - 44) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 0 (0 - 8)mmHg
   Total In:
                                                                    978 mL
                                                                    264 mL
   PO:
   TF:
   IVF:
                                                                    978 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    650 mL
   Urine:
                                                                  1,470 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -492 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, somnolent
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   158 K/uL
   90 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.4 mEq/L
   15 mg/dL
   107 mEq/L
   142 mEq/L
   34.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2102-1-10**]  02:53 AM
                             [**2102-1-10**]  04:08 AM
                             [**2102-1-10**]  06:56 AM
                             [**2102-1-10**]  09:59 AM
                             [**2102-1-10**]  10:30 AM
                             [**2102-1-11**]  02:51 AM
                             [**2102-1-11**]  02:57 AM
                             [**2102-1-12**]  06:09 AM
   WBC
   24.3
   16.3
   11.2
   Hct
   35.0
   33.9
   34.5
   Plt
   161
   144
   158
   Cr
   1.4
   1.1
   0.9
   TropT
   0.07
   0.03
   TCO2
   20
   20
   21
   23
   Glucose
   155
   139
   133
   90
   Other labs: PT / PTT / INR:12.9/34.7/1.1, CK / CKMB /
   Troponin-T:159/4/0.03, ALT / AST:25/27, Lactic Acid:1.8 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 CANCER (MALIGNANT NEOPLASM), OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   81M Alzheimer's, dCHF, HTN, NPH, penile cancer with chronic foley
   admitted with likely septic shock of urinary source; intubated in ED
   with respiratory distress.
   1. Septic shock: Cont vanc/Zosyn.  Hemodynamics have stabilized.  WBC
   down.
   2. Renal failure: resolved
   3. Respiratory Failure: Extubated and doing well.  Does have a tortuous
   aorta on CXR - will defer chest CT for now given overall clinical
   status
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2102-1-10**] 02:51 AM
   20 Gauge - [**2102-1-11**] 09:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   Patient is critically ill